US09238639B2
Ethyl(6-((4-amino-2-methylpyrimidin-5-yl)methoxy)-1-benzothiophen-3-yl)acetate
A mixture of ethyl(6-((4-chloro-2-methylpyrimidin-5-yl)methoxy)-1-benzothiophen-3-yl)acetate (100 mg) and 2M ammonia in EtOH (10 mL) was stirred at 100° C. for 5 h under microwave irradiation. The mixture was concentrated in vacuo. The residual solid was recrystallized from EtOAc-IPE to give the title compound (92 mg).

reactant | ethyl(6-((4-chloro-2-methylpyrimidin-5-yl)methoxy)-1-benzothiophen-3-yl)acetate | 100 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)OCC=2C(=NC(=NC2)C)Cl)=O | C18H17ClN2O3S
reactant | ammonia | 2M | N | H3N
solvent | EtOH | 10 mL | CCO | C2H6O
product | Ethyl(6-((4-amino-2-methylpyrimidin-5-yl)methoxy)-1-benzothiophen-3-yl)acetate | 92 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)OCC=2C(=NC(=NC2)C)N)=O | C18H19N3O3S
